US06288061B1
Ethyl 3-(4-fluorophenyl)-2-hydroxyimino-3-oxopropionate (33.5 g) and 4-nitrobenzylamine (23.7 g) were reacted and treated in the same manner as in Starting Material Synthetic Example 1 to give ethyl 5-(4-fluorophenyl)-2-(4-nitrophenyl)imidazole-4-carboxylate (12.1 g),whichwasdissolvedinethylalcohol. 1MSodiumhydroxidesolution was added and the mixture was reacted and treated in the same manner as in.Starting Material Synthetic Example 2 to give 5-(4-fluorophenyl)-2-(4-nitrophenyl)imidazole-4-carboxylic acid (10.3 g), melting point 173-178° C. (decomposition).

reactant | Ethyl 3-(4-fluorophenyl)-2-hydroxyimino-3-oxopropionate | 33.5 g | FC1=CC=C(C=C1)C(C(C(=O)OCC)=NO)=O | C11H10FNO4
reactant | 4-nitrobenzylamine | 23.7 g | [N+](=O)([O-])C1=CC=C(CN)C=C1 | C7H8N2O2
product | ethyl 5-(4-fluorophenyl)-2-(4-nitrophenyl)imidazole-4-carboxylate | 12.1 g | FC1=CC=C(C=C1)C1=C(N=C(N1)C1=CC=C(C=C1)[N+](=O)[O-])C(=O)OCC | C18H14FN3O4
